US04493726
338 g of a 30% solution of sodium methylate in methanol are added over 10 minutes to a suspension of 112 g of p-methoxybenzamidine hydrochloride and 101 g of diethyl malonate in 520 ml of ethanol, and the mixture is subsequently refluxed for 5 hours. The reaction mixture is then concentrated by rotary evaporation and the residue is dissolved in 1000 ml of warm water of 80° C. The solution is filtered and the filtrate is acidified to pH 1. The precipitate is isolated by filtration and vacuum dried at 80° C., affording 109.8 g of 2-p-methoxyphenyl-4,6-dihydroxypyrimidine with a melting point of 318° C. (decompos.).

reactant | sodium methylate | C[O-].[Na+]
reactant | p-methoxybenzamidine hydrochloride | 112 g | Cl.COC1=CC=C(C(=N)N)C=C1
reactant | diethyl malonate | 101 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
solvent | methanol | CO | CH4O
solvent | ethanol | 520 ml | C(C)O | C2H6O
product | 2-p-methoxyphenyl-4,6-dihydroxypyrimidine | 109.8 g | COC1=CC=C(C=C1)C1=NC(=CC(=N1)O)O | C11H10N2O3
